US06784183B2
Step 1: 4-(2-Methylphenyl)-1-piperazinecarbaldehyde
With vigorous stirring, 437 mmol (77 g) of 2-methylphenylpiperazine are added to a solution of 415 mmol (61.3 g) of trichloroacetaldehyde in 400 ml of dibutyl ether. The reaction mixture is heated at 80° C. for 1 hour and, after cooling, concentrated to yield the expected product.

reactant | 2-methylphenylpiperazine | 437 mmol, 77 g | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | trichloroacetaldehyde | 415 mmol, 61.3 g | ClC(C=O)(Cl)Cl | C2HCl3O
solvent | dibutyl ether | 400 ml | C(CCC)OCCCC | C8H18O
product | 4-(2-Methylphenyl)-1-piperazinecarbaldehyde | CC1=C(C=CC=C1)N1CCN(CC1)C=O | C12H16N2O
